US07576063B2
To a solution of 3-benzyloxy-4-formyl-1,5-diisopropyl-1H-pyrazole (0.21 g) in tetrahydrofuran (10 mL) was added a solution of phenylmagnesium bromide in tetrahydrofuran (1 mol/L, 1.5 mL) at room temperature, and the mixture was stirred at room temperature for 2 hours. A saturated ammonium chloride aqueous solution and water were added to the reaction mixture, and the mixture was purified by column chromatography on aminopropylated silica gel (eluent:tetrahydrofuran). Further purification by column chromatography on silica gel (eluent:hexane/ethyl acetate=10/1-2/1) to give the adduct material, [3-benzyloxy-1,5-diisopropyl-1H-pyrazole-4-yl] phenyl methanol. The obtained adduct material was dissolved in ethanol, and a catalytic amount of 10% palladium-carbon powder was added to the solution. The mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (0.16 g).

reactant | 3-benzyloxy-4-formyl-1,5-diisopropyl-1H-pyrazole | 0.21 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)C(C)C)C(C)C | C17H22N2O2
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mol/L, 1.5 mL | O1CCCC1 | C4H8O
product | [3-benzyloxy-1,5-diisopropyl-1H-pyrazole-4-yl] phenyl methanol | C(C1=CC=CC=C1)OC1=NN(C(=C1C(O)C1=CC=CC=C1)C(C)C)C(C)C | C23H28N2O2
